US08703758B2
G) 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-ol
To a solution of 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-one (259 mg) in ethanol (5 mL) was added sodium borohydride (57 mg) under ice-cooling. The reaction mixture was stirred at 0° C. for 1 hr, and extracted with ethyl acetate and 1M hydrochloric acid. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (271 mg).

reactant | 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-one | 259 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)=O)C=C1 | C20H25NO4
reactant | sodium borohydride | 57 mg | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-ol | 271 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)O)C=C1 | C20H27NO4
